US05681841
(3) 1-[trans-4-(methoxycarbonyl)cyclohexyl]-3-[4-(1-trifluoroacetyl-4-piperidinyl)phenyl]-3H-imidazol-2-one
The N-(2,2-diethoxyethyl)-4-(1-trifluoroacetyl-4-piperidinyl)-aniline use as amine [Rf value: 0.90 (silica gel; cyclohexane/ethyl acetate=1:3] is obtained by reacting 4-(1-trifluoroacetyl-4-piperidinyl)-aniline with bromoacetaldehyde-diethylacetal in the presence of N-ethyl-diisopropylamine.

reactant | N-(2,2-diethoxyethyl)-4-(1-trifluoroacetyl-4-piperidinyl)-aniline | C(C)OC(CNC1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O)OCC | C19H27F3N2O3
reactant | 4-(1-trifluoroacetyl-4-piperidinyl)-aniline | FC(C(=O)N1CCC(CC1)C1=CC=C(N)C=C1)(F)F | C13H15F3N2O
reactant | bromoacetaldehyde-diethylacetal | C(C)OC(CBr)OCC | C6H13BrO2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 1-[trans-4-(methoxycarbonyl)cyclohexyl]-3-[4-(1-trifluoroacetyl-4-piperidinyl)phenyl]-3H-imidazol-2-one | COC(=O)[C@@H]1CC[C@H](CC1)N1C(N(C=C1)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O)=O | C24H28F3N3O4
